Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall with headstrike
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ male, on aspirin and Coumadin for 
A.___ who presents to ___ on ___ with a mild 
TBI. 
Patient is incarcerated at ___, where 
he reports two days ago he had a fall. Patient states he just 
collapsed to the ground and hit his lead, and believes he lost 
consciousness. He reports that he was evaluated at the medical 
facility at ___ and it was determined no further evaluation
was needed. 

On day of admission, patient reportedly began vomiting blood, 
and he was taken
to OSH for further evaluation. While at OSH he reported his 
recent fall, and a NCHCT was obtained which demonstrated a right 
frontal SDH with 5mm midline shift. Of note, INR at OSH was 20. 
patient was reversed with vit K and Kcentra. 
 
Past Medical History:
Fulminant liver failure likely secondary to tylenol ingestion 
requiring 23-day hospitalization in ___ at ___
Portal hypertension with minimal ascites noted in ___, 
possibly acute ___ tylenol ingestion
Gastroparesis (confirmed with gastric emptying study ___
Sarcoidosis with extra-pulmonary symptoms (primarily myalgias 
and joint pain), previously on steroids 
Pernicious anemia
B12 deficiency
Iron deficiency anemia
Hypercholesterolemia
Diabetes Mellitus non-insulin dependent
GERD
Depression
Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Significant heart disease, stroke, MS, dementia; no known liver 
history. 
 
Physical Exam:
ON ADMISSION:
GCS upon Neurosurgery Evaluation:  14
      
Time of evaluation: 21:21

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [x]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: PERRL, EOMI
Neck: supple  
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Not tested
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

================================================

ON DISCHARGE:

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL ___
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [ ]No  -unable to assess, pt refuses to
participate  
Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor exam with poor attention and poor effort. Today will not
participate in full motor exam, however when provided noxious
stimuli to nailbeds, the patient has very quick
localization/withdraw from pain for bilateral upper extremities,
and very brisk withdraw with extending holding of position with
noxious stimuli to toe nailbeds. Despite asking for 
participation
in exam, the patient would not follow a full motor examination. 

[x]Clonus - negative
[x]Sensation intact to light touch

 
Pertinent Results:
Please refer for OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old incarcerated male, who 
presented to ___ s/p fall with right frontal SDH. 

#Right Frontal SDH
Patient presents on ___ with CT from OSH demonstrating right 
frontal SDH. Patient was admitted to neurosurgery service for 
further workup and evaluation. A repeat NCHCT was obtained the 
next morning, which was stable, with no new areas of hemorrhage. 
Aspirin and Coumadin were held from the time of admission. 
Neurological exam remained stable throughout his admission. The 
patient was noted to be lethargic on examination on ___. In the 
setting of lethargy, a non-contrast head CT was ordered which 
showed a stable right frontal subdural hematoma. 

#A.___
Patient has a history of A.fibb medically managed with aspirin 
and Coumadin. Patient's INR was reversed at OSH, and patient 
received platelets here at ___. Aspirin and Coumadin were 
held, and it was determined to continue to hold anticoagulation 
until follow up appointment, where patient will need to be 
cleared by neurosurgery prior to restarting. Given underlying 
A.fib, there is a risk of stroke without any anticoagulation, 
but in the setting of patient's acute subdural hematoma, the 
risk of re-hemorrhage on these medications is higher. 

#Urinary Retention 
Patient experienced new onset urinary retention during his 
admission. He was intermittently straight cathed. Urinalysis and 
urine cultures were sent which were negative for infection. He 
continued to retain urine overnight on ___ and a foley catheter 
was placed. On ___, the patient's foley catheter was 
discontinued for a voiding trial. Patient was unable to void, 
and a foley was replaced. Patient was cleared to be discharged 
with foley catheter and close follow up with urology as an 
outpatient. 

#Psychiatric illness
While inpatient, there was a concern for patient having an 
underlying eating disorder, as he had minimal PO intake and 
reports recent weight loss. A Psych consult was placed where it 
was determined that since the patient is medically stable, this 
can be further managed as an outpatient. 

Patient expressed to the team that he is extremely depressed and 
"does not want to live anymore". Psych was again consulted, and 
given that the patient is already under 24 hour supervision 
(___ officers), has his ankles handcuffed to the bed, 
and is not explicitly expressing a suicidal plan, it was 
determined that he is not at an immediate risk of harming 
himself or others. It was recommended that patient follow up 
with outpatient psych for further management.  

#Bilateral Lower Extremity Weakness
On ___, the patient was noted to have new bilateral lower 
extremity weakness. In the setting of urinary retention, a MRI 
of the cervical, thoracic and lumbar spine which was negative 
for hematoma or canal stenosis. He continued with bilateral 
lower extremity weakness through.....

#Electrolyte Abnormalities
The patient's phosphorous and calcium levels were low during 
this hospitalization and it was repleted. 

#Constipation
The patient received Mag Citrate on ___ for constipation. 

#Dispo Planning
Given that patient had a fall of unknown cause which led to his 
SDH, it was determined he would benefit from ___ consults. 
___ recommended ...

 
Medications on Admission:
- Tylenol ___, 2 tabs PO TID pain
- Aspirin 81mg, 1 tab PO QPM 
- Cyanocobalamin (Vit B12) 1000mcg, ___ tab (500mcg) PO QPM 
- Docusate Sodium 100mg, 1 tab PO BID prn constipation
- Ferrous Gluconate 324mg(5 GR), 1 tab PO QPM
- Finasteride 5mg, 1 tab PO QPM 
- Folic Acid 1 mg, 1 tab PO QPM
- Loperamide 2mg, 2 capsules (4mg) PO BID prn diarrhea
- Methotrexate Sodium 2.5mg, 4 tabs (10mg) PO QPM on ___
- Mirtazapine 7.5mg, 1 tab PO QHS
- Quietiapine 200mg tab UD, 1 tab PO at QHS *Crush/empty*
- Cholecalciferol (Vit D) 50,000 Unit, 1 capsule PO once a 
month,
on the first day of the month in the evening
- Warfarin 4mg tab UD, 2 tabs (8mg)PO QPM on ___
- Warfarin 5mg tab UD, 1 tab PO QPM, ___ 
- Warfrin 4mg tab, UD, 1 tab PO QPM, ___ 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every eight (8) hours Disp #*15 Tablet 
Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation  
3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*5 Tablet Refills:*0 
4.  Finasteride 5 mg PO DAILY  
5.  FoLIC Acid 1 mg PO QPM  
6.  LOPERamide 4 mg PO BID:PRN diarrhea  
7.  Methotrexate 10 mg PO QWED  
8.  Mirtazapine 7.5 mg PO QHS  
9.  QUEtiapine Fumarate 200 mg PO QHS  
10.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right Frontal Subdural Hematoma 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Brain Hemorrhage without Surgery

Activity

- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

- No driving while taking any narcotic or sedating medication. 

- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

- You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:

- You may have difficulty paying attention, concentrating, and 
remembering new information.

- Emotional and/or behavioral difficulties are common. 

- Feeling more tired, restlessness, irritability, and mood 
swings are also common.

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
- Headache is one of the most common symptom after a brain 
bleed. 

- Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache.
 
- Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

- There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

- Sudden numbness or weakness in the face, arm, or leg

- Sudden confusion or trouble speaking or understanding

- Sudden trouble walking, dizziness, or loss of balance or 
coordination

- Sudden severe headaches with no known reason

 
Followup Instructions:
___